US07781597B2
To a solution of 1-nitro-3-trifluoromethyl-benzene (41.1 mL, 300 mmol, 97%, purchased from Aldrich) in dichloromethane (240 mL) is added 98% sulfuric acid (45.7 mL, 840 mmol) over 10 minutes. The vigorously stirred resulting biphasic mixture is warmed to 35° C. and 1,3-dibromo-5,5-dimethyl-imidazolidine-2,4-dione (53.1 g in total, 180 mmol) is added in six equal portions over five hours. The mixture is stirred at 35° C. for additional 19 hours. Thereafter, more than 97% of the starting material is converted according to HPLC analysis. The reaction mixture is allowed to cool to room temperature and added over 20 minutes to a stirred 2 M aqueous NaOH solution (210 mL) of 0-5° C. while cooling with an ice-water bath. The internal temperature rises temporarily to about 35° C. The two layers are separated. The aqueous layer is extracted with hexane (3×200 mL). The combined organic layers are washed with water (200 mL), 5% aqueous sodium metabisulfite solution (2×200 mL), 8% aqueous NaHCO3 solution (200 mL) and 10% aqueous NaCl solution (200 mL) and, thereafter, the solvents are evaporated at reduced pressure and 45° C. The obtained liquid is distilled at 0.71 mbar and a bath temperature of 70-80° C. to give 1-bromo-3-nitro-5-trifluoromethyl-benzene as a pale yellow liquid. Yield: 89.6% (1H-NMR purity: about 95%). 1H-NMR (400 MHz, CDCl3): 8.11 ppm (m, 1 H), 8.45 ppm (m, 1 H), 8.58-8.59 ppm (m, 1 H). Boiling point: approximately 68° C. at 0.71 mbar.

reactant | 1-nitro-3-trifluoromethyl-benzene | 300 mmol, 41.1 mL | [N+](=O)([O-])C1=CC(=CC=C1)C(F)(F)F | C7H4F3NO2
reactant | sulfuric acid | 840 mmol, 45.7 mL | S(O)(O)(=O)=O | H2O4S
reactant | 1,3-dibromo-5,5-dimethyl-imidazolidine-2,4-dione | 180 mmol, 53.1 g | BrN1C(N(C(C1(C)C)=O)Br)=O | C5H6Br2N2O2
reactant | NaOH | 2 M, 210 mL | [OH-].[Na+]
solvent | dichloromethane | 240 mL | ClCCl | CH2Cl2
product | 1-bromo-3-nitro-5-trifluoromethyl-benzene | Yield: 89.6% | BrC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C7H3BrF3NO2
